US07420001B2
To 2-amino-3-methylphenol (1 g, 8.1 mmol) was added ethyl triethoxyacetate (5.4 g, 3 eq). The mixture was stirred at 110° C. overnight. The reaction mixture was cooled and triturated with hexane. Filtration gave 1.36 g of 4-methyl-benzooxazole-2-carboxylic acid ethyl ester as a white solid.

reactant | 2-amino-3-methylphenol | 8.1 mmol, 1 g | NC1=C(C=CC=C1C)O | C7H9NO
reactant | ethyl triethoxyacetate | 5.4 g, 3 eq | C(C)OC(C(=O)OCC)(OCC)OCC | C10H20O5
product | 4-methyl-benzooxazole-2-carboxylic acid ethyl ester | 1.36 g | C(C)OC(=O)C=1OC2=C(N1)C(=CC=C2)C | C11H11NO3
